US07705027B2
1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-ethanone
51.2 g of 1-(2,4-Bis-benzyloxy-phenyl)-ethanone (0.154 mol, 1 eq) were dissolved in 250 ml DMF. 27.42 g N-bromosuccinimide (0.154 mol, 1 eq) in 100 ml DMF were added dropwise. The mixture was stirred at room temperature over night. The reaction mixture was poured onto 700 ml of water and the precipitate filtered off. The filter cake was rinsed with water and the colourless solid was recrystallised from 370 ml acetonitrile.

reactant | 1-(2,4-Bis-benzyloxy-phenyl)-ethanone | 0.154 mol, 51.2 g, 1 eq | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
reactant | N-bromosuccinimide | 0.154 mol, 27.42 g, 1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 700 ml | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C(C)=O | C22H19BrO3
